US05716971
To a mixture of 5-bromo-2-methoxymethoxybenzyl chloride (21.6 g), sodium cyanide (8.33 g) and dichloromethane (10 ml) was added, at 15° to 20° C., DMSO (80 ml), followed by stirring for 3 hours at room temperature. The mixture was poured into water, which was subjected to extraction with ethyl acetate. The extract solution was washed with water, dried (anhydrous magnesium sulfate) and concentrated to leave an oily product. The oily product was purified by means of a silica gel column chromatography (eluted with ethyl acetate/hexane) to give 5-bromo-2-methoxymethoxybenzyl cyanide (20.4 g), whose spectrum data are shown below.

reactant | 5-bromo-2-methoxymethoxybenzyl chloride | 21.6 g | BrC=1C=CC(=C(CCl)C1)OCOC | C9H10BrClO2
reactant | sodium cyanide | 8.33 g | [C-]#N.[Na+]
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | DMSO | 80 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 5-bromo-2-methoxymethoxybenzyl cyanide | 20.4 g | BrC=1C=CC(=C(CC#N)C1)OCOC | C10H10BrNO2
